US04816454
6-(4-(4-Chlorophenoxyacetylamino)-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone
0.1 g of 4-dimethylaminopyridine and 5.1 g (0.025 mole) of 4-chlorophenoxyacetyl chloride are added to 5.1 g (0.025 mole) of 6-(4-amino-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone in 20 ml of pyridine. The mixture is stirred at room temperature for 5 hours and concentrated, water is added and the mixture is extracted with methylene chloride.

reactant | 4-chlorophenoxyacetyl chloride | 0.025 mole, 5.1 g | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
reactant | 6-(4-amino-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.025 mole, 5.1 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 6-(4-(4-Chlorophenoxyacetylamino)-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | ClC1=CC=C(OCC(=O)NC2=CC=C(C=C2)C=2C(CC(NN2)=O)C)C=C1 | C19H18ClN3O3
